US09120749B2
(6-(3-chloro-5-fluoro-4-hydroxyphenyl)-4-((trans-4-(pyrrolidin-1-ylmethyl)cyclohexyl)amino)quinolin-3-yl)(cyclopropyl)methanone
Following general procedure M, (6-bromo-4-((trans-4-(pyrrolidin-1-ylmethyl)cyclohexyl)amino)quinolin-3-yl)(cyclopropyl)methanone (46 mg, 0.10 mmol) was reacted with 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (43 mg, 0.16 mmol) to afford the desired product (32 mg, 61%) as a yellow solid. 1H NMR (500 MHz, MeOD) δ 9.10 (s, 1H), 8.28 (s, 1H), 7.94 (dd, J=8.7, 1.9 Hz, 1H), 7.85 (d, J=8.7 Hz, 1H), 7.47-7.43 (m, 1H), 7.35 (dd, J=11.9, 2.4 Hz, 1H), 4.15-4.07 (m, 1H), 3.23-3.15 (m, 4H), 2.92 (d, J=6.8 Hz, 2H), 2.87-2.78 (m, 1H), 2.30 (d, J=12.7 Hz, 2H), 2.06-1.97 (m, 6H), 1.87-1.78 (m, 1H), 1.56 (q, J=12.4 Hz, 2H), 1.30-1.14 (m, 4H), 1.13-1.05 (m, 2H). ESI MS m/z 522 [C30H33ClFN3O2+H]+; HPLC>99% (AUC), tR=11.04 min.

reactant | (6-bromo-4-((trans-4-(pyrrolidin-1-ylmethyl)cyclohexyl)amino)quinolin-3-yl)(cyclopropyl)methanone | 0.10 mmol, 46 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N[C@@H]1CC[C@H](CC1)CN1CCCC1 | C24H30BrN3O
reactant | 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.16 mmol, 43 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)F)O | C12H15BClFO3
product | (6-(3-chloro-5-fluoro-4-hydroxyphenyl)-4-((trans-4-(pyrrolidin-1-ylmethyl)cyclohexyl)amino)quinolin-3-yl)(cyclopropyl)methanone | 32 mg, 61% | ClC=1C=C(C=C(C1O)F)C=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N[C@@H]1CC[C@H](CC1)CN1CCCC1 | C30H33ClFN3O2
